US05624943
2.9 g of Collins reagent is added to a solution of 470 mg of 5-[3-methoxy-2-(2-methoxycarbonylethyl)-6-pyridyl]-(5RS)-5-hydroxypentanoic acid methyl ester in 50 ml of dichloromethane under argon atmosphere at 0° C., and the mixture is stirred for 2 hours at room temperature. Then, it is diluted with hexane, mixed with diatomaceous earth until paste formation, filtered on diatomaceous earth and rewashed with ethyl acetate. The filtrate is concentrated by evaporation, and the crude product is chromatographed on silica gel with hexane/0-10% ethyl acetate. 337 mg of 5-[3-methoxy-2-(2-methoxycarbonylethyl)-6-pyridyl]-5-oxopentanoic acid methyl ester of melting point 64°-66° C. is obtained.

reactant | Collins reagent | 2.9 g | O=[Cr](=O)=O.C1=NC=CC=C1.C2=NC=CC=C2
reactant | 5-[3-methoxy-2-(2-methoxycarbonylethyl)-6-pyridyl]-(5RS)-5-hydroxypentanoic acid methyl ester | 470 mg | COC(CCCC(O)C1=CC=C(C(=N1)CCC(=O)OC)OC)=O | C16H23NO6
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 5-[3-methoxy-2-(2-methoxycarbonylethyl)-6-pyridyl]-5-oxopentanoic acid methyl ester | 337 mg | COC(CCCC(=O)C1=CC=C(C(=N1)CCC(=O)OC)OC)=O | C16H21NO6
